US06660744B1
To a mixture of 1-(3-azetanyl)-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.05 g, 0.00014 mol) and potassium carbonate (0.039 g, 0.00028 mol) in anhydrous N,N-dimethylformamide (3 mL) was added chloroacetylchloride (0.0031 g, 0.00028 mol) at room temperature. The mixture was stirred for 10 min. before 2-aminoimidazole sulfate (0.18 g, 0.0014 mol) and potassium carbonate (0.19 g, 0.0014 mol) was added. The mixture was stirred at room temperature for 2 days then warmed to 60° C. for 6 hours. The solvent was removed under reduced pressure. The residue was dissolved in dichloromethane (3 mL) and washed with water (2 mL). The solvent was removed under reduced pressure. The residue was purified by RP-HPLC (Hypersilprep HS C18, 8 μm, 250×21.1 mm; 5%-100% over 35 min with 0.1 M ammonium acetate, 21 mL/min) to yield 2-(2-amino-1H-1-imidazolyl)-1-{3-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]-1-azetanyl}-1-ethanone acetate (0.006 g, 0.00001 mol).

reactant | 1-(3-azetanyl)-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.00014 mol, 0.05 g | N1CC(C1)N1N=C(C=2C1=NC=NC2N)C2=CC=C(C=C2)OC2=CC=CC=C2 | C20H18N6O
reactant | potassium carbonate | 0.00028 mol, 0.039 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloroacetylchloride | 0.00028 mol, 0.0031 g | ClCC(=O)Cl | C2H2Cl2O
reactant | 2-aminoimidazole sulfate | 0.0014 mol, 0.18 g | S(=O)(=O)(O)O.NC=1NC=CN1
reactant | potassium carbonate | 0.0014 mol, 0.19 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 2-(2-amino-1H-1-imidazolyl)-1-{3-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]-1-azetanyl}-1-ethanone acetate | 0.00001 mol, 0.006 g | C(C)(=O)O.NC=1N(C=CN1)CC(=O)N1CC(C1)N1N=C(C=2C1=NC=NC2N)C2=CC=C(C=C2)OC2=CC=CC=C2 | InChI=1S/C25H23N9O2.C2H4O2/c26-23-21-22(16-6-8-19(9-7-16)36-18-4-2-1-3-5-18)31-34(24(21)30-15-29-23)17-12-33(13-17)20(35)14-32-11-10-28-25(32)27;1-2(3)4/h1-11,15,17H,12-14H2,(H2,27,28)(H2,26,29,30);1H3,(H,3,4)
